US05665725
A solution of 3-(4-fluorophenyl)-8-azabicyclo[3,2,1]oct-2-ene (10 g) was dissolved in glacial acetic acid (150 ml). Platinum oxide (0.5 g) was added followed by treatment with hydrogen gas at 3 atm of pressure in a conventional Parr apparatus. Filtration and removal of solvent in vacuo left a viscous oil. Water was added and the mixture made alkaline (pH>9) with aqueous NaOH. Extraction with ethyl acetate, drying of the organic phase over magnesium sulfate and removal of solvent in vacuo gave 3-(4-fluorophenyl)-8-azabicyclo[3,2,1]-octane (9 g) as an oil. The title compound 24 was obtained from 3-(4-fluorophenyl)-8-azabicyclo[3,2,1]octane and 4-(1,2-benzisoxazol-3-yl)-1-butyl methanesulfonate (prepared as described in EXAMPLE 19) by the method described in EXAMPLE 2. The oxalate salt crystallized from acetone by addition of oxalic acid. Yield. 1.1 g, mp: 169°-70° C.

reactant | 3-(4-fluorophenyl)-8-azabicyclo[3,2,1]oct-2-ene | 10 g | FC1=CC=C(C=C1)C1=CC2CCC(C1)N2 | C13H14FN
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | Platinum oxide | 0.5 g | [Pt]=O
product | 3-(4-fluorophenyl)-8-azabicyclo[3,2,1]-octane | 9 g | FC1=CC=C(C=C1)C1CC2CCC(C1)N2 | C13H16FN
